US08138333B2
tert-Butyl 3-oxo-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate
tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate, Intermediate 12 (100 mg, 0.37 mmol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ) (167 mg, 0.73 mmol) in THF/water 9/1 (8 ml) was stirred under N2 over night at room temperature. The compound was purified on a Biotage preparative flash column eluting with 15-100% EtOAc in petroleum ether 40-65° C. Obtained 58 mg of the title compound. MS (ESI+) m/z 231 [M+H-isobutene]+.

reactant | tert-butyl 1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | N1C=C2C=3C(=CC=CC13)CN(CC2)C(=O)OC(C)(C)C | C16H20N2O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 0.73 mmol, 167 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | THF water | 8 ml | C1CCOC1.O
product | tert-Butyl 3-oxo-1,3,4,6-tetrahydro-5H-azepino[5,4,3-cd]indole-5-carboxylate | 58 mg | O=C1CN(CC=2C=3C1=CNC3C=CC2)C(=O)OC(C)(C)C | C16H18N2O3
